US06177452B1
Adipic acid monomethyl ester chloride (17.9 g) was added dropwise into a mixture of chlorobenzene(33.8 g) and aluminum chloride anhydrous(26.7 g) with cooling with ice. After stirring for 2 hours, the reaction mixture was poured into ice water, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, and dried (MgSO4). The solvent was evaporated to give methyl 5-(4-chlorobenzoyl)pentanoate. This was dissolved into dichloromethane(100 ml), thereto bromine(16.0 g) was added dropwise. The reaction mixture was washed with water and then with sodium hydrogensulfite. The dichloromethane layer was washed with water, and dried (MgSO4). The solvent was evaporated to give methyl 5-bromo-5-(4-chlorobenzoyl)pentanoate(31.7 g, 95%) as an oily substance.

reactant | Adipic acid monomethyl ester chloride | 17.9 g | [Cl-].COC(CCCCC(=O)O)=O
reactant | aluminum chloride anhydrous | 26.7 g | [Al](Cl)(Cl)Cl
reactant | chlorobenzene | 33.8 g | ClC1=CC=CC=C1 | C6H5Cl
product | methyl 5-(4-chlorobenzoyl)pentanoate | ClC1=CC=C(C(=O)CCCCC(=O)OC)C=C1 | C13H15ClO3
